US04892966
67.99 g (492 mmol) of potassium carbonate and 1.87 g (8.2 mmol) of benzyltriethylammonium chloride are suspended in 500 ml of acetonitrile. 59.86 g (410 mmol) of methyl 4-methoxyacetoacetate are added thereto while stirring. 65.50 g (615 mmol) of 1-chloro-2-butanone are added dropwise thereto within 30 minutes and the mixture is stirred at 20°-25° C. for 23 hours. The reaction mixture is poured into 1 l of 1N HCl (pH value=1) and extracted 3 times with 700 ml of ethyl acetate each time. The combined organic phases are dried over magnesium sulphate and concentrated on a rotary evaporator. The crude product distils at 115° C./0.05 mbar. There results 49.01 g (55.3%) of methyl 4-methoxy-2-(2-oxobutyl)-acetoacetate.

reactant | potassium carbonate | 492 mmol, 67.99 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 4-methoxyacetoacetate | 410 mmol, 59.86 g | COCC(CC(=O)OC)=O | C6H10O4
reactant | 1-chloro-2-butanone | 615 mmol, 65.50 g | ClCC(CC)=O | C4H7ClO
reactant | HCl | 1N, 1 l, pH value=1 | Cl | ClH
catalyst | benzyltriethylammonium chloride | 8.2 mmol, 1.87 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | methyl 4-methoxy-2-(2-oxobutyl)-acetoacetate | 49.01 g, 55.3% | COCC(C(C(=O)OC)CC(CC)=O)=O | C10H16O5
